US04755212
Preparation of methyl 3-amino-2-bromo-4-methylbenzoate
A mixture of 16.5 g (100 mmol) of methyl 3-amino-4-methylbenzoate and 300 ml of CCl4 was treated with 18.6 g (105 mmol) of N-bromosuccinimide and stirred at ambient temperature for 4 hours. The reaction mixture was filtered, and the filtrate was evaporated at reduced pressure to afford an amber oil. To remove material resulting from bromination at the 6-position, the crude product was taken up in 100 ml of hexane and 60 ml of ether and treated with 3.96 g (50.0 mmol) of pyridine and 3.06 g (30.0 mmol) of acetic anhydride. After stirring for 3 hours at 25° C., the precipitate was removed by filtration. The filtrate was evaporated at reduced pressure to yield an amber oil. The crude product was purified by HPLC to afford 14.5 g (59%) of the desired product as an amber oil. IR and 1H NMR spectra were in agreement with the assigned structure.

reactant | methyl 3-amino-4-methylbenzoate | 100 mmol, 16.5 g | NC=1C=C(C(=O)OC)C=CC1C | C9H11NO2
reactant | N-bromosuccinimide | 105 mmol, 18.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | pyridine | 50.0 mmol, 3.96 g | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 30.0 mmol, 3.06 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | hexane | 100 ml | CCCCCC | C6H14
solvent | ether | 60 ml | CCOCC | C4H10O
solvent | CCl4 | 300 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 3-amino-2-bromo-4-methylbenzoate | 14.5 g, 59% | NC=1C(=C(C(=O)OC)C=CC1C)Br | C9H10BrNO2
